US06063782
Methyl 1-(2,2-difluoroethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as flesh-colored crystals in 90.4% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 2-bromo-1,1-difluoroethane.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 2-bromo-1,1-difluoroethane | BrCC(F)F | C2H3BrF2
product | Methyl 1-(2,2-difluoroethyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | FC(CN1C(=C(C(=C1C)C)C=O)C(=O)OC)F | C11H13F2NO3
